US04281120
Following the procedure described in Example 5, 4.9 g of 2-amino-5-[di-(isopropyl)-amino]-1,3,4-thiadiazole were reacted with 4.2 g of diethyl acetylenedicarboxylate in the presence of 100 ml of ethanol. The ethyl 2-[di-(isopropyl)-amino]-7H-1,3,4-thiadiazolo-[3,2-a]-pyrimidin 7-one-5-carboxylate obtained was recrystallized from ethyl acetate.

reactant | 2-amino-5-[di-(isopropyl)-amino]-1,3,4-thiadiazole | 4.9 g | NC=1SC(=NN1)N(C(C)C)C(C)C | C8H16N4S
reactant | diethyl acetylenedicarboxylate | 4.2 g | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-[di-(isopropyl)-amino]-7H-1,3,4-thiadiazolo-[3,2-a]-pyrimidin 7-one-5-carboxylate | C(C)(C)N(C1=NN2C(=NC(C=C2C(=O)OCC)=O)S1)C(C)C | C14H20N4O3S
